US08378104B2
Step C: 8-bromoimidazo[1,5-a]pyridine
A suspension of N-[(3-bromopyridin-2-yl)methyl]formamide (312.0 mg, 1.451 mmol) in toluene (7.0 mL) was charged with phosphorus oxychloride (0.50 mL, 5.4 mmol) and then refluxed for 1 h. The mixture was concentrated. The residue was cooled to 0° C. and water was added slowly. To the cooled aqueous suspension, aqueous ammonium hydroxide was added until the pH was basic, and the mixture was then extracted with ethyl acetate. The organic fraction was washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated. Purification of the residue by ISCO chromatography (100% ethyl acetate) afforded 180.5 mg (63%) of the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 8.51 (d, J=0.51 Hz, 1H), 8.39 (td, J=0.88, 7.07 Hz, 1H), 7.38 (t, J=0.88 Hz, 1H), 7.12 (d, J=7.07 Hz, 1H), 6.60 (dd, J=6.90, 6.90 Hz, 1H); MS (ESI): 197.05, 198.99 [M+H]+; HPLC tR=2.86 min (ZQ3: polar—5 min).

reactant | N-[(3-bromopyridin-2-yl)methyl]formamide | 1.451 mmol, 312.0 mg | BrC=1C(=NC=CC1)CNC=O | C7H7BrN2O
reactant | phosphorus oxychloride | 5.4 mmol, 0.50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 7.0 mL | C1(=CC=CC=C1)C | C7H8
product | 8-bromoimidazo[1,5-a]pyridine | 180.5 mg, 63% | BrC=1C=2N(C=CC1)C=NC2 | C7H5BrN2
